US08071595B2
To a stirred solution of ethyl 2-(4-(quinolin-2-ylmethoxy)phenyl)acetate (20 g, 0.05 mol) in MeOH (200 mL), a solution of KOH (12.6 g, 0.22 mol) in water (50 mL) was added dropwise and the reaction mixture was stirred for 1 h at RT. The methanol was then removed, and the reaction mixture was washed with EtOAc (2×100 mL) and acidified to pH ˜3 with 1 N HCl at 0° C. The precipitated solid was filtered and dried to afford 2-(4-(quinolin-2-ylmethoxy)phenyl)acetic acid (15 g, 92%) as a white solid.

reactant | ethyl 2-(4-(quinolin-2-ylmethoxy)phenyl)acetate | 0.05 mol, 20 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CC(=O)OCC | C20H19NO3
reactant | KOH | 0.22 mol, 12.6 g | [OH-].[K+]
solvent | MeOH | 200 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 2-(4-(quinolin-2-ylmethoxy)phenyl)acetic acid | 15 g, 92% | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CC(=O)O | C18H15NO3
